2168-03-17 07:27:00 Physician Resident Progress Note
Chief Complaint: 45 yo female with history of eating disorders &
   alcoholism who presents as OSH transfer with acute encephalopathy,
   jaundice, hyperbilirubinemia, GI bleeding and hypotensive shock
   requiring pressors
   24 Hour Events:
   -overnight she was weaned off of levophed, now only on vasopressin
   -continues to have Cr at 4 level
   -lactate 2--> 2.4
   -renal consulted last night, will staff today
   -anion gap still not closing, bicarbonate falling
   -liver team following, EGD with 4 oozing esopahgeal varices ( grade
   II/III) which were banded , also e/o gastric varices
   -Hct still low but stable at 25-26 range
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2168-3-17**] 12:50 AM
   Levofloxacin - [**2168-3-17**] 12:51 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-17**] 12:00 AM
   Other medications:
   Changes to medical and family history: same as admission note
   Review of systems is unchanged
   Flowsheet Data as of  [**2168-3-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 70 (70 - 86) bpm
   BP: 114/54(71) {114/54(71) - 156/67(92)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
    CVP: 19 (12 - 36)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                    499 mL
                                                                  1,778 mL
   PO:
   TF:
   IVF:
                                                                    302 mL
                                                                  1,403 mL
   Blood products:
                                                                    197 mL
                                                                    375 mL
   Total out:
                                                                    535 mL
                                                                    214 mL
   Urine:
                                                                    185 mL
                                                                    214 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    -36 mL
                                                                  1,564 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.36/22/215/8/-10
   Ve: 11.3 L/min
   PaO2 / FiO2: 537
   Physical Examination:
   General : patient intubated, sedated, very jaundiced
   HEENT:  +scleral icteris, EOMI, nares clear
   NECK: supple, RIJ in place, JVP 9-10cm
   Pulmonary: mild bibasilar crackles, no wheezes
   CVS: S1/S2 regular, RRR, no murmurs/rubs/gallops
   Abd: soft, slightly hypoactive bowel sounds, splenomegaly appreciated
   and liver edge 2-3cm beyond costal margin
   Extremities: 2+ pedal pulses, no edema, warm
   Neuro: sedated, PERRL, EOMI, moves all 4 extremities when stimulated
   Derm: no petechiae appreciated, very jaundiced skin
   Lines/tubes/drains: Right IJ, PIV x2, foley
   Labs / Radiology
   59 K/uL
   9.3 g/dL
   220 mg/dL
   4.4 mg/dL
   8 mEq/L
   3.3 mEq/L
   85 mg/dL
   109 mEq/L
   138 mEq/L
   26.7 %
   10.9 K/uL
        [image002.jpg]
   OSH labs :
   UA: amber, positive nitrites, positive leuks
   Urine Cx: prelim with E.Coli ( R/S not available)
   Blood cultures: sent off at OSH per reports / final results not sent
   .
   CXR: without infiltrate
   CT head: negative for bleed, diffuse cerebral atrophy
   ABD US: gallbladder sludge, no intra/extra hepatic duct dilation, CBD
   4.6mm, portal HTN with reversal of flow in portal circulation, ascites
   noted
   .
   [**Hospital1 5**] :
   CXR here: retrocardiac atelectasis, otherwise no significant edema or
   PNA noted
                             [**2168-3-16**]  05:24 PM
                             [**2168-3-16**]  06:44 PM
                             [**2168-3-17**]  12:01 AM
                             [**2168-3-17**]  12:06 AM
                             [**2168-3-17**]  04:41 AM
                             [**2168-3-17**]  05:01 AM
   WBC
   15.2
   15.7
   10.9
   Hct
   26.9
   25.3
   26.7
   Plt
   45
   83
   59
   Cr
   4.0
   4.0
   4.4
   TropT
   0.01
   TCO2
   13
   10
   13
   Glucose
   223
   217
   220
   Other labs: PT / PTT / INR:19.7/42.2/1.8, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:42/65, Alk Phos / T Bili:162/33.6,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.8 g/dL, LDH:210 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   45 yo female with history of eating disorders & alcoholism who presents
   as OSH transfer with acute encephalopathy, jaundice,
   hyperbilirubinemia, GI bleeding and hypotensive shock requiring
   pressors consistent with fulminant hepatic failure.
   .
   #GI Bleeding: Likely upper source given coffee ground emesis and known
   prior esophageal varices on EGD in past. LFTs indicate ETOH cirrhosis
   given AST>ALT and given social history this is likely worsened acute on
   chronic cirrhosis. EGD urgently done and patient was found to have
   oozing upper varices x4, the worse was stage III. She has bandeing x 4
   esophageal varices.
   -active T&S
   -q6 hr HCTs, transfuse to > 30 Hct
   -continue octreotide drip
   .
   # Fulminant liver failure: Known ETOH cirrhosis. Possible ppt with
   increased ETOH drinking vs tylenol use/overdose vs
   infection/hypotension
   -f/up additional Liver recs, appreciate input
   -continue NAC in case of tylenol
   -f/up additional hepatitis studies, hemachromatosis, ceruloplasmin,  as
   well as SMA & IGG for full hepatitis workup
   -once stable can give Pentoxifylline PO (decreases inflammation in
   cirrhosis); holding steroids for alcoholic hepatitis given possible
   sepsis
   -lactulose
   .
   #Hypotension/Shock: She is status post 3-4L NS IVFs and has been weaned
   off 2 pressors. CVPs in the 14-15 range now. CXR with no signs of fluid
   overload. Etiologies include hypovolemia in setting of dehydration and
   GI losses and FeNa indicated pre-renal status as well. Also need to
   consider septic physiology as she had leukocytosis to 19 at OSH and had
   E.Coli in urine cultures with positive UA.   A-line placed for
   monitoring
   - switch from Levaquin IV (day#2 today) to cipro , hold off on Flagyl
   for now and will consider expansion to double cover GNRs if spikes
   fevers
   -f/up urine cultures / blood cultures
   -follow Cv02 saturations; if elevated favors sepsis etiology
   -follow CVP goal >10
   -trend lactates q6-8 hours
   -a.m TTE to assess for any vegetations ( for EF and CMY check as well
   )
   - paracentesis for SBP
   - CXR to establish any pulmonary sources for infection & for fluid
   status
   .
   # Mechanical ventilation: Was intubated at OSH supposedly for airway
   protection with encephalopathy. No evidence of intrinsic pulmonary
   process. Still needs to be intubated for help with metabolic acidosis
   and also in context of encephalopathy
   - keep intubated for now to help with blowing off CO2
   #Hepatic encephalopathy: Patient was very confused at OSH per reports.
   Avoiding versed sedation and giving propofol and fentanyl now. Off
   sedation, still lethargic. No evidence of head bleed. Responds to pain
   stimuli only. Worry about cerebral edema.
   -got NAC loading dose 150mg/kg, will continue additional NAC and follow
   LFTs
   - Q2hr neuro checks with Q2 pupil checks
   - Continue treatment for liver failure
   #Metabolic Acidosis: Likely from elevated lactate and acute renal
   failure given Cr 4.4 now. She is compensating with a respiratory
   alkalosis now and pH in 7.33-7.36 range now. Anion Gap 18-20 range.
   -follow AG trend, electrolytes, Cr and ABG compensation
   -will give IV Bicarbonate if pH falling and AG fails to close
   -renal consult, f/up recs-> aware of patient & will staff in morning
   .
   #ARF: Likely secondary to pre-renal dehydration effects and
   hypovolemia. [**Month (only) 8**] have element of ATN as well. Not obstructive as no
   signs of hydronephrosis and has urine output. If does not respond to
   fluids, would have to consider hepatorenal syndrome
   -albumin challenge and fluids and follow Cr (50 gm x 2 doses)
 1^st
   dose today
   -monitor UOP, goal >30cc/hr
   -check sediment, urine lytes
   -check UA for ketones
   -f/up urine lytes  & recalculate FeNa
   #Hyponatremia / Hypokalemia: Given eating disorders and albumin at 1.9
   to 2.3 at OSH she likely has malnutrition at baseline. Low sodium
   likely in setting of hypovolemia as well. ARF is also present and may
   be contribnuting to electrolyte shifts.
   - will replete K to >4 to avoid arrhythmias / place on scales
   - will trend Na, continue gentle IVFs
   .
   #Anemia: Hct low in setting of acute GI bleeding and probably has low
   iron, B12 levels in setting of eating disorders. Also may have marrow
   suppression of blood levels secondary to ETOH.
   - trend HCTs q6 hours for now
   - active T&S
   - transfuse to 26 Hct , 1 unit now
   - f/up iron studies, folate, B12
   .
   #Thrombocytopenia:  Most likely secondary to chronic liver diasease and
   may be element of additional marrow suppression ETOH use.
   - keep platelets above 30, transfuse plts as needed
   - desmopressin
   - trend coags, platelet levels
   ..
   #History of anorexia/bulimia: Confirmed with sister and father. Unclear
   if patient is actively abusing laxatives.
   .
   - monitor electrolytes as above
   - repeat EKG
   - SW consult once more stable
   #Leukocytosis: Could be urinary source given her hazy urine with
   positive nitrites and leuks at OSH which are consistent for UTI. Also
   need to consider SBP in setting of her ascites and liver failure.
   - repeat blood cultures
   - send off urine cultures/ repeat UA
   - do diagnostic paracentesis to r/o SBP
   - f/up OSH R&S data from urine culture
   .
   #Access: Right IJ, A-line, 2 PIVs
   .
   #PPX: IV PPI, boots
   .
   #Dispo: ICU for now
   .
   #Code: Full Code
   .
   #Communication: NOK & father [**Name (NI) 1384**] [**Name (NI) 12641**] # [**0-0-**] sister [**Name (NI) 625**]
   at #[**Telephone/Fax (1) 12642**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-16**] 05:07 PM
   20 Gauge - [**2168-3-17**] 12:17 AM
   Arterial Line - [**2168-3-17**] 05:46 AM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-03-17 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    45 yo F history of ETOH abuse, cirrhosis, anorexia, sent to OSH for
   altered mental status and transferred to [**Hospital1 5**] ICU with GIB.
   24 Hour Events:
   Overnight:
    - able to discontinue vasopressors
    - renal consult for metabolic acidosis
    - paracentesis for abdominal ascites with no evidence of SBP, cultures
   and gram stain pending
    - Liver service following, EGD performed with 4 esophageal varices,
   grade II-III, which were banded, as well as gastric varices
    - given 1 additional unit pRBCs to maintain hct 26
    - Arterial line placed
    - continued NAC, holding pentoxyphiline until she can tolerate PO,
   holding steroids
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2168-3-17**] 12:50 AM
   Levofloxacin - [**2168-3-17**] 12:51 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient unable to respond [**1-5**] encephalopathy
   Flowsheet Data as of  [**2168-3-17**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 70 (70 - 86) bpm
   BP: 114/54(71) {114/54(71) - 156/67(92)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   CVP: 19 (12 - 36)mmHg
   Mixed Venous O2% Sat: 92 - 92
                                Total In:
                                                                    499 mL
                                                                  2,108 mL
   PO:
                                TF:
   IVF:
                                                                    302 mL
                                                                  1,733 mL
   Blood products:
                                                                    197 mL
                                                                    375 mL
   Total out:
                                                                    535 mL
                                                                    214 mL
   Urine:
                                                                    185 mL
                                                                    214 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    -36 mL
                                                                  1,894 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 10 cmH2O
   Plateau: 8 cmH2O
   Compliance: 160 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/22/215/8/-10
   Ve: 14 L/min
   PaO2 / FiO2: 537
   Physical Examination
   General Appearance: Thin, intubated, obtunded
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Rhonchorous:
   diffusely)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   9.3 g/dL
   59 K/uL
   220 mg/dL
   4.4 mg/dL
   8 mEq/L
   3.3 mEq/L
   85 mg/dL
   109 mEq/L
   138 mEq/L
   26.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2168-3-16**]  05:24 PM
                             [**2168-3-16**]  06:44 PM
                             [**2168-3-17**]  12:01 AM
                             [**2168-3-17**]  12:06 AM
                             [**2168-3-17**]  04:41 AM
                             [**2168-3-17**]  05:01 AM
   WBC
   15.2
   15.7
   10.9
   Hct
   26.9
   25.3
   26.7
   Plt
   45
   83
   59
   Cr
   4.0
   4.0
   4.4
   TropT
   0.01
   TCO2
   13
   10
   13
   Glucose
   223
   217
   220
   Other labs: PT / PTT / INR:19.7/42.2/1.8, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:42/65, Alk Phos / T Bili:162/33.6,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.8 g/dL, LDH:210 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   45 yo F history of ETOH cirrhosis, anorexia, agoraphobia presents with
   fulminant liver failure, likely [**1-5**] etoh abuse but ruling out
   infection, tylenol overdose (likely chronic abuse) vs other toxic
   ingestion including ethanol/methanol, infectious sources; complicated
   by encephaolopathy, GIB and respiratrory failure
   1. gastrointestingal bleed:  now s/p endoscopy with banding of varices,
   currently no active s/sx of bleed
    - cont [**Hospital1 **] PPI, octreotide
    - will transfuse for s/sx bleed or hct < 26
    - q 6 hour hct checks
    - FFP to maintain INR < 1.5 if bleeding
   2. Liver failure: etoh +/- tylenol +/- infection, will also r/u
   autoimmune, infectious sources, hemochromatois
     - cont NAC for possible tylenol overuse
    - tox screen
    - f/u culture data although given overall rapid improvement in
   hemodynamics, infection seems less likely etiology and will start
   ciprofloxacin for possible UTI
    - f/u autoimmune studies
    - f/u HBV, HCV serologies
   - will start methylprednisonefor etoh hepatis.
   3.   Hypotension: dehydration, low intravascular oncotic pressure, less
   likely sepsis/infection given rapid improvement
     - off pressors, may be related to dehydration
    - CVP > 8
    - trending lactate,
   4. Metabolic acidosis: renal and liver failure with pH > 7.25
    - renal servuce following;  IVF with NaHCO3
    - check serum osms for osm gap to r/o ethanol
   5. ARF: ikely pre-renal but may also be hepatorenal
    - following serum and urine electrolytes
    - renal service following
    - will give fluid challenge and albumin and assess creatinine response
   to assess for HRS
    - spin urine
   6. thrombocytopenia: t/f to maintain platelets > 30
   7. mental status: she has no focal neurologic deficits but given her
   degree of encephalopathy is at increased risk for cerebral edema
    - q 2hr neuro checks
   8. Respiratory failure: intubated for mental status changes, remains
   intubated to allow her to maintain normal pH
    - will continue vent support for now, will try switch to PSV
    9. ETOH: thiamine, folate, mvi
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-3-16**] 05:07 PM
   20 Gauge - [**2168-3-17**] 12:17 AM
   Arterial Line - [**2168-3-17**] 05:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2168-03-18 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo F etoh cirrhosis, anorexia, transferred from osh with altered
   mental status and upper GIB, now s/p EGD with banding of grade III
   esophageal varices
   24 Hour Events:
   TTE essentially wnl
   Increased tachypnea in evening, eyes deviated to R but reactive pupils,
   taken for head CT
   Increased respiratory rate, transitioned from PSV to AC
   Early morning: developed ? of L sided posturing,
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2168-3-17**] 12:50 AM
   Levofloxacin - [**2168-3-17**] 12:51 AM
   Ciprofloxacin - [**2168-3-17**] 10:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 22 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-18**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 83 (74 - 91) bpm
   BP: 115/56(76) {98/45(59) - 127/65(248)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   CVP: 19 (14 - 35)mmHg
   Mixed Venous O2% Sat: 86 - 87
                                Total In:
                                                                  4,433 mL
                                                                  1,730 mL
   PO:
                                TF:
   IVF:
                                                                  3,858 mL
                                                                  1,355 mL
   Blood products:
                                                                    575 mL
                                                                    375 mL
   Total out:
                                                                    809 mL
                                                                    260 mL
   Urine:
                                                                    809 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,624 mL
                                                                  1,470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 584 (584 - 887) mL
   PS : 7 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.44/16/118/9/-9
   Ve: 19.4 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Thin, icteric
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Decreased, upgoing babinski b/l, no tone LUE
   Labs / Radiology
   8.7 g/dL
   45 K/uL
   175 mg/dL
   4.0 mg/dL
   9 mEq/L
   3.2 mEq/L
   85 mg/dL
   106 mEq/L
   138 mEq/L
   25.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2168-3-17**]  05:01 AM
                             [**2168-3-17**]  11:45 AM
                             [**2168-3-17**]  12:17 PM
                             [**2168-3-17**]  06:25 PM
                             [**2168-3-17**]  07:04 PM
                             [**2168-3-17**]  08:09 PM
                             [**2168-3-18**]  03:06 AM
                             [**2168-3-18**]  04:06 AM
                             [**2168-3-18**]  04:22 AM
                             [**2168-3-18**]  06:56 AM
   WBC
   9.0
   8.8
   8.9
   Hct
   24.8
   23.4
   25.0
   Plt
   46
   57
   45
   Cr
   4.6
   4.0
   4.0
   TCO2
   13
   9
   11
   10
   15
   13
   11
   Glucose
   174
   148
   175
   Other labs: PT / PTT / INR:20.0/42.9/1.8, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:45/69, Alk Phos / T Bili:133/34.9,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:4.1 mmol/L, Albumin:3.2 g/dL, LDH:220 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   45 yo F etoh cirrhosis, anorexia, transferred from osh with altered
   mental status and upper GIB, now s/p EGD with banding of grade III
   esophageal varices
   1. Fulminant liver failure: likely [**1-5**] etoh, but tylenol and infefction
   are also a possibility
    - liver service assistance much appreciated
    - cont NAC for possilble tylenol
    - Cont prednisone for etoh toxicity
    - will place doboff for lactulose and pentoxyphyline
    - f/u hepatitis studies
   2. Hepatic encephalopathy +/- uremia
    - cont q 2 hour neuro checks
    - f/u final head cts
    - lactulose, rifaxamin, pentox
   3. GIB:  gradual decrease in hct in setting of recent gi bleed
    - trend hct q 8 hr
    - t/f Hct > 25, s/sx bleed
    - completes octreotide drip this eve
    - cont iv ppi
   4. Hypotension/shock:
    - liekly related to intubation, gib no overt s.sx infection
    - ? UTI
    - will continue cipro for now for presumed UTI and f/u OSH culture
   data, if negative will d/c abx
   5. Access: will request PICC today
   6. Metabolic acidosis:
    - likely [**1-5**] renal and hepatic failure, with adequate respiratory
   compensation, overnight began to tire a bit on the vent with decreased
   minute ventilation, and was therefore started on HCO3 gtt, with overall
   improvement.
    - will d/c hco3 gtt and cont acv
   7. Acute renal failure: less likely HRS given approriate response to
   IVF challenge
    - no wacute indication for HD at this moment
    - will cont ivf and albumin x 1 more dose
   -
   ICU Care
   Nutrition:
   Comments: will place doboff and start renal hepatic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-3-16**] 05:07 PM
   20 Gauge - [**2168-3-17**] 12:17 AM
   Arterial Line - [**2168-3-17**] 05:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   will be primary contact for all patient issues
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-03-19 06:39:00 Physician Resident Progress Note
Chief Complaint:
   45yo F who presented with fulminant alcoholic liver failure, upper and
   lower GI bleeding [**1-5**] esophageal / gastric  varices, who continues to
   be intubated for airway protection
   24 Hour Events:
   - placed dophoff, started tube feeds, lactulose, rifaximin
   - DCd steroids, started pentoxifylline
   - PICC placed
   - CT head with orbital density - holding on MRI for now
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2168-3-17**] 12:50 AM
   Levofloxacin - [**2168-3-17**] 12:51 AM
   Ciprofloxacin - [**2168-3-18**] 11:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-18**] 09:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-19**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 86 (74 - 96) bpm
   BP: 123/55(77) {104/47(63) - 127/65(87)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   Height: 66 Inch
    CVP: 35 (18 - 35)mmHg
   Total In:
                                                                  3,163 mL
                                                                    969 mL
   PO:
   TF:
                                                                     81 mL
                                                                    200 mL
   IVF:
                                                                  2,507 mL
                                                                    649 mL
   Blood products:
                                                                    575 mL
   Total out:
                                                                  1,060 mL
                                                                    290 mL
   Urine:
                                                                  1,060 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,103 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 655 (655 - 655) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/20/183/10/-5
   Ve: 14.7 L/min
   PaO2 / FiO2: 457
   Physical Examination:
   General :  sedated, intubated, withdraws extremities to painful stimuli
   SKIN:  very jaundiced diffusely, dry, no petechiae
   HEENT:,+scleral icterus, PERRL, no active bleeding from nose/mouth now
   NECK: supple, RIJ in place, JVP 8-9-cm
   LUNGS: mild bibasilar crackles, no wheezes appreciated
   CVS: S1/S2 regular, RRR, no murmurs/rubs/gallops
   Abd: soft, NT, slightly hypoactive bowel sounds, splenomegaly
   appreciated and liver edge 2-3cm beyond costal margin
   Extremities: 2+ pedal pulses, no edema, warm  , Pneumoboots in place
   Neuro:  rigid upper extremities, unable to elicit asterixis.
   Labs / Radiology
   43 K/uL
   8.6 g/dL
   181 mg/dL
   3.6 mg/dL
   10 mEq/L
   3.3 mEq/L
   82 mg/dL
   111 mEq/L
   142 mEq/L
   23.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2168-3-18**]  04:06 AM
                             [**2168-3-18**]  04:22 AM
                             [**2168-3-18**]  06:56 AM
                             [**2168-3-18**]  02:39 PM
                             [**2168-3-18**]  02:51 PM
                             [**2168-3-18**]  09:10 PM
                             [**2168-3-18**]  09:20 PM
                             [**2168-3-19**]  02:03 AM
                             [**2168-3-19**]  02:17 AM
                             [**2168-3-19**]  06:29 AM
   WBC
   8.9
   10.1
   Hct
   25.0
   25.0
   25.1
   23.1
   Plt
   45
   43
   Cr
   4.0
   3.9
   2.7
   3.6
   TCO2
   13
   11
   14
   14
   15
   15
   Glucose
   175
   151
   154
   181
   Other labs: PT / PTT / INR:21.1/47.0/2.0, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:45/77, Alk Phos / T Bili:122/31.6,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:220 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   45 yo female with history of eating disorders, ETOH cirrhosis here with
   fulminant hepatic failure, GIB, acute renal failure, and shock now off
   pressors
   .
   # Fulminant liver failure: Known ETOH cirrhosis. Possible ppt with
   increased ETOH drinking vs tylenol use/overdose vs
   infection/hypotension. Patient also with discriminant function>32 but
   given GI bleeding (likely from esophageal varices noted on EGD),
   steroids being held now. Total bilirubin continues to be elevated near
   31 and INR still elevated at 2.   MELD is 40 today.
   - holding any additional Solumedrol given GI bleeding
   - f/up additional Liver recs, appreciate input
   - continue pentoxyphylline
   - she is s/p NAC loading for question of Tylenol ingestion
   - f/up additional hepatitis studies, ceruloplasmin,  as well as SMA &
   IGG for full hepatitis workup
   - dophoff  for tubefeeds
   - continue lactulose / rifax
   - continue Cipro
   - continue vitamin K
   - trending MELD scores, LFTs, INR & Hcts q8hrs
   #Hepatic encephalopathy: Patient on some propofol, getting Q1hr neuro
   checks.  Continues to have some concern for possible  posturing
   overnight but recent head CT was not concerning for cerebral edema.
   - f/u MRI once patient has recovered enough and more stable as CT
   picked up orbital area abnormality
   - dophoff placed ; continue lactulose/rifax
   -  Q2hr neuro checks with Q2 pupil checks
   - if clonic motions or posturing continues consider EEG
   -
   #GI Bleeding: s/p banding of esophageal varices. No hemetemesis or
   melena overnight.  Blood pressures remained stable off of pressors.
   -keep active T&S
   -q8 hr HCTs, transfuse to > 25 Hct
   - s/p 3 days of octreotide drip which ended [**3-18**]
   - continue protonix IV
   .
   #Hypotension/Shock:
   BP now improved, off pressors. Suspected hypovolemia, possible
   urosepsis. Para negative for SBP.
   - Continue cipro d4  of 6  for now pending sensitivities
   - F/u OSH micro data for recent UTI
   - Continue to trend lactates
   - F/u micro and CIS
   .
   # Mechanical ventilation: Was intubated at OSH supposedly for airway
   protection with encephalopathy. No evidence of intrinsic pulmonary
   process. Still needs to be intubated for help with metabolic acidosis
   and also in context of encephalopathy. Also having active UGI bleeding
   with varices which necessitated airway protection as well.
   .
   - trending lactates and anion gap
   - keep intubated for now on A/C to help compensate for metabolic
   acidosis
   .
   #Metabolic Acidosis: Likely from elevated lactate and acute renal
   failure. She had been compensating with a respiratory alkalosis with
   pH in 7.33-7.36 range but has now shifted with a higher pH in 7.4 range
   now. Anion Gap still elevated at 21 range.
   -follow AG trend, electrolytes, Cr and ABG compensation
   -will give IV Bicarbonate if pH falling and AG fails to close
   -renal consult, f/up recs-> aware of patient & will staff in morning
   .
   #ARF: Likely secondary to pre-renal dehydration effects and
   hypovolemia. Per renal team, feel she likely had ATN . Today her Cr is
   finally coming down to 3.6 from 4 range which is reassuring and her UOP
   is improving.
    No obstructive findings  on imaging.
   - f/up renal recs, appreciate guidance & input
   - continue midodrine
   - continue gentle IVFs
   - monitor UOP, goal >30cc/hr
   .
   #Thrombocytopenia:  Most likely secondary to chronic liver diasease and
   may be element of additional marrow suppression ETOH use.
   - keep platelets above 30, transfuse plts as needed
   - follow cbc daily
   ..
   #History of anorexia/bulimia: Confirmed with sister and father. Unclear
   if patient is actively abusing laxatives.
   - monitor electrolytes as above
   - repeat EKG
   - SW consult once more stable
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-3-19**] 02:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2168-3-17**] 05:46 AM
   PICC Line - [**2168-3-18**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full
   Disposition:ICU

2168-03-19 10:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2168-3-18**] 06:29 PM
 PICC LINE - START [**2168-3-18**] 06:30 PM
 BLOOD CULTURED - At [**2168-3-19**] 02:00 AM
   Got Head CT yesterday--> No edema.  Dobhoff placed-->lactulose started.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2168-3-17**] 12:50 AM
   Levofloxacin - [**2168-3-17**] 12:51 AM
   Ciprofloxacin - [**2168-3-18**] 11:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-18**] 09:01 PM
   Other medications:
   RISS, peridex, rifaximin, lactulose, trental
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-19**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 88 (74 - 96) bpm
   BP: 109/49(71) {104/47(63) - 127/65(87)} mmHg
   RR: 26 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   Height: 66 Inch
   CVP: 35 (18 - 35)mmHg
   Total In:
                                                                  3,163 mL
                                                                  1,262 mL
   PO:
   TF:
                                                                     81 mL
                                                                    263 mL
   IVF:
                                                                  2,507 mL
                                                                    680 mL
   Blood products:
                                                                    575 mL
   Total out:
                                                                  1,060 mL
                                                                    650 mL
   Urine:
                                                                  1,060 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,103 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 806 (655 - 806) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/20/183/10/-5
   Ve: 15.8 L/min
   PaO2 / FiO2: 457
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar, No(t)
   Wheezes : )
   Abdominal: Soft, Bowel sounds present, Distended, Hepatomegaly,
   splenomegaly
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Jaundice, No petechia
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   43 K/uL
   181 mg/dL
   3.6 mg/dL
   10 mEq/L
   3.3 mEq/L
   82 mg/dL
   111 mEq/L
   142 mEq/L
   23.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2168-3-18**]  04:06 AM
                             [**2168-3-18**]  04:22 AM
                             [**2168-3-18**]  06:56 AM
                             [**2168-3-18**]  02:39 PM
                             [**2168-3-18**]  02:51 PM
                             [**2168-3-18**]  09:10 PM
                             [**2168-3-18**]  09:20 PM
                             [**2168-3-19**]  02:03 AM
                             [**2168-3-19**]  02:17 AM
                             [**2168-3-19**]  06:29 AM
   WBC
   8.9
   10.1
   Hct
   25.0
   25.0
   25.1
   23.1
   Plt
   45
   43
   Cr
   4.0
   3.9
   2.7
   3.6
   TCO2
   13
   11
   14
   14
   15
   15
   Glucose
   175
   151
   154
   181
   Other labs: PT / PTT / INR:21.1/47.0/2.0, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:45/77, Alk Phos / T Bili:122/31.6,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:220 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR:  L PiCC in L SC. ETT in place.  Mild pulmonary vascular
   congestion.  No focal infiltrates.
   Microbiology: BCx: NGTD
   UCx (OSH):  E coli
   Assessment and Plan
   45 yo F etoh cirrhosis, anorexia, transferred from osh with altered
   mental status and upper GIB, now s/p EGD with banding of grade III
   esophageal varices
   1.) Fulminant liver failure: likely [**1-5**] etoh.  Head CT prelim neg for
   edema.  Not transplant candidate.
   - liver service assistance much appreciated
   - Now on trental for alcoholic hepatitis
   - Continue lactulose and rifaximin
   - f/u hepatitis studies, trend LFTs
   - f/u final head cts
   2.) GIB:  gradual decrease in hct in setting of recent gi bleed
   - trend hct q 8 hr
   - t/f Hct > 25, s/sx bleed--> 1 unit today
   - completed octreotide drip yest
   - cont iv ppi
   -Cipro for SBP prophylaxis
   3.)  AMS:  Hepatic encephalopathy improved a little today
   -Continue lactulose, rifaxamin
   -Currently off sedation.  Will monitor for signs of etoh w/d and treat
   accordlingly.
   4.)  Renal Failure:  Seems most c/w ATN.  Creatine starting to
   decrease, U/o no increasing.
   -Continue to monitor lytes, volume status, acid/base.
   5.)  Respiratory Failure:  Intubated for airway protection.  Tolerating
   trial of PSV 5/5 this AM
   -Monitor MS, once able to follow commands will extubate.
    6). Access: Has PICC
   7.)  Thrombocytopenia:  Will monitor for active bleeding closely and
   transfuse, use DDAVP as needed.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2168-3-17**] 05:46 AM
   PICC Line - [**2168-3-18**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2168-03-20 06:53:00 Physician Resident Progress Note
Chief Complaint:
   45 yo female with history of eating disorders, ETOH cirrhosis here with
   fulminant hepatic failure, GIB, acute renal failure, and shock
   24 Hour Events:
   -sputum cultures sent
   -had brief runs NSVT, gave IV Mag and abated, held off on amiodarone
   - Hct stable at 24.9 so held off on repeat transfusion, no s/o active
   bleeding again
   -renal recs no additional bicarb for now, Cr improving, recheck of
   urine lytes,eos & sediment
   - liver recs Cipro until [**3-21**], cont PPI IV BID, no steroids for now
   - liver rec to place IR guided PEG early next week
   - UOP faded slightly and Cr climbed to 4.1 so gave gentle IVFs
   overnight
   - called [**Hospital 680**] Hospital microbiology lab & her urine culture grew
   out pan-sensitive E.Coli
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-18**] 11:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-19**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-20**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.9
C (96.7
   HR: 85 (85 - 109) bpm
   BP: 127/56(77) {106/48(68) - 133/61(84)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   Height: 66 Inch
             Total In:
                                                                  3,179 mL
                                                                    549 mL
   PO:
             TF:
                                                                  1,026 mL
                                                                    380 mL
   IVF:
                                                                  1,532 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,180 mL
   Urine:
                                                                  1,570 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    800 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                    809 mL
                                                                   -631 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 701 (701 - 806) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: 7.39/19/118/11/-10
   Ve: 15 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General :  sedated, intubated, more alert today and interactive, able
   to move extremities when asked
   SKIN:  very jaundiced, dry, no petechiae, sternal area telangiectasias
   HEENT:,+scleral icterus, PERRL, no active bleeding from nose/mouth now
   NECK:  RIJ in place,  supple
   LUNGS:  bibasilar crackles, no wheezes appreciated
   CVS: S1/S2 regular, RRR, no murmurs/rubs/gallops
   Abd: soft, NT, + distended abdomen, normooactive bowel sounds,
   splenomegaly & hepatomegaly noted
   Extremities: 2+ pedal pulses, no edema, pneumoboots on
   Neuro:  EOMI, moves extremities, otherwise limited exam [**1-5**]
   intubation/AMS
   Labs / Radiology
   44 K/uL
   9.4 g/dL
   171 mg/dL
   3.6 mg/dL
   11 mEq/L
   3.6 mEq/L
   76 mg/dL
   119 mEq/L
   146 mEq/L
   25.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2168-3-18**]  09:10 PM
                             [**2168-3-18**]  09:20 PM
                             [**2168-3-19**]  02:03 AM
                             [**2168-3-19**]  02:17 AM
                             [**2168-3-19**]  06:29 AM
                             [**2168-3-19**]  11:06 AM
                             [**2168-3-19**]  11:30 AM
                             [**2168-3-19**]  05:03 PM
                             [**2168-3-19**]  11:55 PM
                             [**2168-3-20**]  05:52 AM
   WBC
   10.1
   12.0
   16.2
   Hct
   25.1
   23.1
   24.9
   25.3
   24.8
   25.8
   Plt
   43
   40
   44
   Cr
   2.7
   3.6
   4.1
   3.6
   TCO2
   14
   15
   15
   12
   Glucose
   154
   181
   142
   171
   Other labs: PT / PTT / INR:21.5/43.6/2.0, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:55/93, Alk Phos / T Bili:164/30.2,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.5 g/dL, LDH:227 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan:
   45 yo female with history of eating disorders, ETOH cirrhosis here with
   fulminant hepatic failure, GIB, acute renal failure, and shock found to
   have alcoholic hepatitis.
   .
   # Alcoholic hepatitis  :
   Patient has discriminant function>32 but given GI bleeding ( esophageal
   varices oozing & banded on  EGD), steroids being held now. Total
   bilirubin continues to be elevated near 30 and INR still elevated at 2.
   0 today.
   .
   - continue pentoxyphylline, holding off on steroids for now
   -  f/up liver recs
   - continue dophoff tubefeeds
   - continue lactulose / rifaxamin
   - continue Cipro day 4 of  5 day course
   - trending Hcts  [**Hospital1 **]
   - continue MVI, thiamine, daily folate
   - f/up additional hepatitis studies, ceruloplasmin,  as well as SMA &
   IGG for full hepatitis workup
   - SW consult when more stable
   # Mechanical ventilation: Was intubated at OSH for airway protection
   with encephalopathy. No evidence of intrinsic pulmonary process.
   Patient has been kept intubated to help with extreme  metabolic
   acidosis and also in context of encephalopathy / AMS .
   - doing well on pressure support, and RSBI was in 30s today so SBT this
   AM, possible trial of extubation
   - extubated when more awake and reliably following commands
   #Hepatic encephalopathy:  Now on lactulose and rifaximin, appears more
   awake. No evidence of cerebral edema on CT head.
   - consider MRI once stabilized given note of right orbital nonspecific
   finding on CT
   -  Q2hr neuro checks with Q2 pupil checks off sedation
   - if clonic motions or posturing occurs will consider EEG
   #GI Bleeding:  She had urgent EGD on arrival and is now s/p banding of
   esophageal varices. No hemetemesis or melena overnight.  Blood
   pressures still continue to remain stable off of pressors.
   -keep active T&S
   - can switch to [**Hospital1 **] HCT checks now , transfuse to > 25 Hct
   - s/p 3 days of octreotide drip which ended [**3-18**]
   - continue protonix IV BID
   #Leukocytosis:  Still no fever spikes despite WBC climb to 16 today.
   She has also had stable BPs off of pressors. Discolored sputum noted
   and more secretions overnight concerning for pulmonary source/HAP.  CXR
   with possible increased opacity on right. Otherwise, as above, her
   workup was negative for SBP.  Should have adequate coverage for her UTI
   as OSH micro data showed pan-sensitive E.Coli. Sputum cx mixed
   bacteria.
   - start vanc/cefepime for empiric HAP coverage
   - follow fever count
   -continue Cipro
   - repeat blood cultures if spikes
   .
   #Hypotension/Shock:
   BP now improved, off pressors. Suspected hypovolemia, possible
   urosepsis. Para negative for SBP. OSH urine cultures grew
   - complete 5d course of cipro as above
   - F/u OSH micro data for recent UTI , CIS
   - Continue to trend lactates
   . .
   #Metabolic Acidosis:  Likely related to renal failure and elevated
   lactate. Anion Gap coming down to 15-16 range now ( from 20s) .
   -follow AG trend, electrolytes, Cr and ABG compensation
   -renal recs appreciated
   .
   #ARF: Improved with IVF arguing for prerenal component. Likely volume
   deplete [**1-5**] GIB and poor PO. Cr trending down, adequate urine output.
   - continue to trend urine output, Cr
   - check lytes [**Hospital1 **]
   - f/up renal recs & results of latest sediment / urine eos / urine
   lytes
   .
   #Thrombocytopenia:  Most likely secondary to chronic liver diasease and
   may be element of additional marrow suppression ETOH use.
   - keep platelets above 30, transfuse plts as needed
   - follow cbc daily
   ..
   #History of anorexia/bulimia: Confirmed with sister and father. Unclear
   if patient is actively abusing laxatives.
   - monitor electrolytes as above
   - SW consult once more stable
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2168-3-20**] 04:16 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2168-3-17**] 05:46 AM
   PICC Line - [**2168-3-18**] 06:30 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  father [**Name (NI) 1384**] [**Name (NI) 12641**] # [**0-0-**]
   Code status: Full code
   Disposition: ICU

2168-03-20 09:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Some short bursts of NSVT overnight-->given magnesium-->no further
   NSVT.
   Sputum cultures sent for brown secretions.
   Given LR 500cc for rising creatinine-->urine output increased.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-18**] 11:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-19**] 08:44 PM
   Other medications:
   RISS, peridex, rifaximin, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-20**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.9
C (96.7
   HR: 83 (83 - 109) bpm
   BP: 123/54(74) {106/48(68) - 133/61(84)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   Height: 66 Inch
             Total In:
                                                                  3,179 mL
                                                                    748 mL
   PO:
             TF:
                                                                  1,026 mL
                                                                    436 mL
   IVF:
                                                                  1,532 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                  1,580 mL
   Urine:
                                                                  1,570 mL
                                                                    980 mL
   NG:
   Stool:
                                                                    800 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                    809 mL
                                                                   -832 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 776 (701 - 776) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/19/118/11/-10
   Ve: 8.6 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sceral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Course ventilated BS
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   44 K/uL
   171 mg/dL
   3.6 mg/dL
   11 mEq/L
   3.6 mEq/L
   76 mg/dL
   119 mEq/L
   146 mEq/L
   25.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2168-3-18**]  09:10 PM
                             [**2168-3-18**]  09:20 PM
                             [**2168-3-19**]  02:03 AM
                             [**2168-3-19**]  02:17 AM
                             [**2168-3-19**]  06:29 AM
                             [**2168-3-19**]  11:06 AM
                             [**2168-3-19**]  11:30 AM
                             [**2168-3-19**]  05:03 PM
                             [**2168-3-19**]  11:55 PM
                             [**2168-3-20**]  05:52 AM
   WBC
   10.1
   12.0
   16.2
   Hct
   25.1
   23.1
   24.9
   25.3
   24.8
   25.8
   Plt
   43
   40
   44
   Cr
   2.7
   3.6
   4.1
   3.6
   TCO2
   14
   15
   15
   12
   Glucose
   154
   181
   142
   171
   Other labs: PT / PTT / INR:21.5/43.6/2.0, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:55/93, Alk Phos / T Bili:164/30.2,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.5 g/dL, LDH:227 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: Urine eos: neg.
   Hepatitis panel from OSH neg
   Imaging: CXR:  ETT in good position.  No clear focal opacity.
   Microbiology: BCx:  pending
   UCx:  pending
   Sputum Cx:  "Contamination from upper resp sources"
   Assessment and Plan
   45 yo F etoh cirrhosis, anorexia, transferred from osh with altered
   mental status and upper GIB, now s/p EGD with banding of grade III
   esophageal varices
    1.) Fulminant liver failure: likely [**1-5**] etoh.  Head CT prelim neg for
   edema.  Not transplant candidate.
   - liver service assistance much appreciated
   - Now on trental for alcoholic hepatitis
   - Continue rifaximin, decrease lactulose for copious stool
   - f/u hepatitis studies, trend LFTs
    2.) GIB:  HCT stable over last 24 hours
   - t/f Hct > 25, s/sx bleed
   - completed octreotide drip [**3-18**]
   - cont iv ppi
   -Cipro for SBP prophylaxis
    3.)  AMS:  Hepatic encephalopathy much improved today
   -Lactulose, rifaximin as above.
   -Currently off sedation.  Will monitor for signs of etoh w/d and treat
   accordlingly.
    4.)  Renal Failure:  Initial ARF seems most c/w ATN.  Creatinine then
   rose yesterday and u/o decreased-->fluid responsive.  Likely now a
   little prerenal due to diarrhea from lactulose.
   -Target positive fluid balance today and monitor u/o.
    5.)  Respiratory Failure:  Intubated for airway protection.
   Tolerating SBT thus far, reasonable cough.  Is likely OK to extubate
   despite secretions given her cough.
   -Will extubate today.
   6.) Leukocytosis: In the context of dark sputum, some concern for early
   VAP.  CXR not convincing.  Low grade temp yesterday was in the context
   of warming blanket.
      -Resent sputum sample
      -Empiric renally dosed Vanco, cefep until cultures return.
    7). Access: Has PICC
    8.)  Thrombocytopenia:  Will monitor for active bleeding closely and
   transfuse, use DDAVP as needed.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2168-3-17**] 05:46 AM
   PICC Line - [**2168-3-18**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2168-03-21 07:04:00 Physician Resident Progress Note
Chief Complaint: 45yo F admitted with AMS, alcoholic hepatitis, GIB
   24 Hour Events:
   -Extubated at 11am and maintaining on RA
   - Mental status improving steadily
   - Patient with sputum production possible infiltrate on CXR, started
   empirically on Vancomycin and Cefepime, sputum cultures sent off
   - Given 1L LR bolus to keep fluid balance even/positive, then started
   taking more POs, advanced to regular diet last night
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-20**] 10:28 AM
   Cefipime - [**2168-3-20**] 11:50 AM
   Ciprofloxacin - [**2168-3-20**] 11:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-21**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 86 (78 - 92) bpm
   BP: 129/58(80) {106/47(67) - 141/67(90)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   Height: 66 Inch
             Total In:
                                                                  3,579 mL
                                                                    474 mL
   PO:
                                                                    920 mL
                                                                    200 mL
   TF:
                                                                    707 mL
                                                                    204 mL
   IVF:
                                                                  1,781 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                    535 mL
   Urine:
                                                                  2,205 mL
                                                                    535 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    374 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 776 (776 - 776) mL
   PS : 0 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 8.6 L/min
   Physical Examination:
   General :  no longer intubated, more alert today and interactive , less
   jaundiced
   SKIN:   dry, no petechiae,  telangiectasias  over chest area
   HEENT:,+scleral icterus, PERRL, no active bleeding from nose/mouth now
   NECK:  RIJ in place,  supple
   LUNGS:
   CVS: S1/S2 regular, RRR, no murmurs/rubs/gallops
   Abd: soft, NT, + distended abdomen, normooactive bowel sounds,
   splenomegaly & hepatomegaly noted
   Extremities: 2+ pedal pulses, no edema, pneumoboots on
   Neuro:  EOMI, moves extremities
   Labs / Radiology
   39 K/uL
   9.8 g/dL
   123 mg/dL
   2.4 mg/dL
   12 mEq/L
   3.3 mEq/L
   60 mg/dL
   116 mEq/L
   143 mEq/L
   27.4 %
   20.1 K/uL
        [image002.jpg]
                             [**2168-3-19**]  02:03 AM
                             [**2168-3-19**]  02:17 AM
                             [**2168-3-19**]  06:29 AM
                             [**2168-3-19**]  11:06 AM
                             [**2168-3-19**]  11:30 AM
                             [**2168-3-19**]  05:03 PM
                             [**2168-3-19**]  11:55 PM
                             [**2168-3-20**]  05:52 AM
                             [**2168-3-20**]  03:42 PM
                             [**2168-3-21**]  05:26 AM
   WBC
   10.1
   12.0
   16.2
   16.5
   20.1
   Hct
   23.1
   24.9
   25.3
   24.8
   25.8
   26.6
   27.4
   Plt
   43
   40
   44
   40
   39
   Cr
   3.6
   4.1
   3.6
   2.4
   TCO2
   15
   15
   12
   Glucose
   181
   142
   171
   146
   123
   Other labs: PT / PTT / INR:21.9/43.9/2.1, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:55/87, Alk Phos / T Bili:164/28.5,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:223 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan:
   45 yo female with history of eating disorders, ETOH cirrhosis here with
   fulminant hepatic failure, GIB, acute renal failure, and shock found to
   have alcoholic hepatitis.
   .
   # Alcoholic hepatitis :  Despite her recent discriminant function>32,
   opted not to treat with any steroids given her marked GI bleeding (
   esophageal varices oozing & banded after EGD on [**3-16**]).  Total bilirubin
   continues to be elevated but has now dipped from 30 to 28 range today.
   INR still elevated at 2. 1 today. All recent  hepatitis studies,
   ceruloplasmin, SMA & IGG all negative for any alternative hepatitis
   causes and social history of recent heavy ETOH use most consistent with
   alcoholic hepatitis.
   .
   - continue pentoxyphylline, holding off on steroids for now
   -  f/up liver recs
   - continue lactulose / rifaxamin
   - continue last day of Cipro ( day 5 of  5 )
   - trending Hcts  [**Hospital1 **]
   - continue MVI, thiamine, daily folate
   - SW consult when more stable
   #Hepatic encephalopathy:  Now on lactulose and rifaximin, appears more
   awake after extubation. No evidence of cerebral edema on recent CT
   head. No additional questionable clonic motions or posturing overnight.
   -  consider MRI once stabilized given note of right orbital nonspecific
   finding on CT
   -  [**Hospital1 **]  neuro checks at this point
   - continue lactulose
   #GI Bleeding:  She had urgent EGD on arrival and is now s/p banding of
   esophageal varices. No hemetemesis or melena overnight.  Blood
   pressures still continue to remain stable off of pressors.
   - keep active T&S
   - can switch to [**Hospital1 **] HCT checks now , transfuse to > 25 Hct
   - s/p 3 days of octreotide drip which ended [**3-18**]
   - continue protonix IV BID
   #Leukocytosis:  Still no fever spikes despite WBC climb up to 20 range
   today. She has also had stable BPs off of pressors. Discolored sputum
   noted and more secretions concerning for pulmonary source/HAP.  CXR
   with opacity on right. Otherwise, as above, her workup was negative for
   SBP.  Should have adequate coverage for her UTI as OSH micro data
   showed pan-sensitive E.Coli. Sputum cx mixed bacteria.
   .
   - f/up CXR today for interval changes
   - continue on  vanc/cefepime for empiric HAP coverage ( day 2 of 10)
   - follow for fevers / WBC trend
   - continue Cipro
   - repeat blood cultures if spikes
   - consider repeat sputum cultures
   .
   #Hypotension/Shock: BP now improved, off of all pressors. Suspected
   hypovolemia with recent poor PO intake and GIB on admission. Also
   concern initially for possible urosepsis although sepsis seems less
   likely a component. Para negative for SBP. OSH urine cultures grew
   - gentle IVFs as needed
   - complete 5d course of cipro as above / today is last day
   - CIS
   - Continue to trend lactates
   . .
   #Metabolic Acidosis:  Continues to improve. Likely related to renal
   failure and elevated lactate. Anion Gap coming down to 15-range now (
   from 20s) .
   -follow AG trend, electrolytes, Cr and ABG compensation
   -renal recs appreciated
   .
   #ARF: Improved with IVF arguing for prerenal component. Likely volume
   deplete [**1-5**] GIB and poor PO. She is now having  adequate urine output
   and her  Cr down to 2.4 today with some additional IVFs over past day.
   - continue to trend urine output, Cr
   - continue gentle IVFs today
   - check lytes [**Hospital1 **]
   - f/up renal recs
   .
   #Thrombocytopenia:  Most likely secondary to chronic liver diasease and
   may be element of additional marrow suppression ETOH use.
   - keep platelets above 30, transfuse plts as needed
   - follow cbc daily
   ..
   #History of anorexia/bulimia: Confirmed with sister and father. Unclear
   if patient is actively abusing laxatives.
   - monitor electrolytes as above
   - SW consult once more stable
   ICU Care
   Nutrition:  PO regular diet now
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2168-3-17**] 05:46 AM
   PICC Line - [**2168-3-18**] 06:30 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  cont PPI
   VAP:   bundle   / on VAP Abx as above
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-03-21 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo F with ETOH cirrhosis, transferred to ICU with fulminant liver
   failure liklely [**1-5**] infection versus increased ETOH consumption.
   24 Hour Events:
    - Extubated [**3-20**] with no complications
    - gradual improvment in mental status
    - increased sputum production, increased WBC, started on vanc/cefepime
    - tolerated advancing diet to regular diet
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-20**] 10:28 AM
   Cefipime - [**2168-3-20**] 11:50 AM
   Ciprofloxacin - [**2168-3-20**] 11:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-3-21**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-21**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.3
C (95.6
   HR: 85 (78 - 92) bpm
   BP: 104/61(76) {104/47(67) - 134/65(87)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.6 kg
   Height: 66 Inch
             Total In:
                                                                  3,579 mL
                                                                    992 mL
   PO:
                                                                    920 mL
                                                                    400 mL
   TF:
                                                                    707 mL
                                                                    204 mL
   IVF:
                                                                  1,781 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,335 mL
   Urine:
                                                                  2,205 mL
                                                                    635 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                    374 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   General Appearance: Thin, confused
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): person only, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   9.8 g/dL
   39 K/uL
   123 mg/dL
   2.0 mg/dL
   12 mEq/L
   3.3 mEq/L
   60 mg/dL
   116 mEq/L
   143 mEq/L
   27.4 %
   20.1 K/uL
        [image002.jpg]
                             [**2168-3-19**]  02:03 AM
                             [**2168-3-19**]  02:17 AM
                             [**2168-3-19**]  06:29 AM
                             [**2168-3-19**]  11:06 AM
                             [**2168-3-19**]  11:30 AM
                             [**2168-3-19**]  05:03 PM
                             [**2168-3-19**]  11:55 PM
                             [**2168-3-20**]  05:52 AM
                             [**2168-3-20**]  03:42 PM
                             [**2168-3-21**]  05:26 AM
   WBC
   10.1
   12.0
   16.2
   16.5
   20.1
   Hct
   23.1
   24.9
   25.3
   24.8
   25.8
   26.6
   27.4
   Plt
   43
   40
   44
   40
   39
   Cr
   3.6
   4.1
   3.6
   2.4
   2.0
   TCO2
   15
   15
   12
   Glucose
   181
   142
   171
   146
   123
   Other labs: PT / PTT / INR:21.9/43.9/2.1, CK / CKMB /
   Troponin-T:100/4/0.01, ALT / AST:55/87, Alk Phos / T Bili:164/28.5,
   Differential-Neuts:88.3 %, Lymph:6.5 %, Mono:3.7 %, Eos:1.2 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:223 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   45 yo F with ETOH cirrhosis, transferred to ICU with fulminant liver
   failure liklely [**1-5**] infection versus increased ETOH consumption.
   1. ETOH cirrhosis: gradual improvement in bilirubin/meld with
   persistent encephalopathy
    - cont pentoxyphyline
    - cont lactulose for encephalopathy
    - will need social work assistance once able to cooperate
    - cont neuro checks
    - will start nadolol given h/o GIB and change PPI to PO
    -
   2. Leukocytosis:
    - sputum, blood cultures ngtd, but increased brown sputum [**3-20**]
    - will d/c abx and watch for s/sx infection
   3. Respiratory failure: intubated for airway protection and has been
   tolerated room air sense
   4. Renal failure: improving with hydration, uop improving,
    - appreciate nephrology input
    - cont aim TBB slightly positive
    - [**Hospital1 **] lytes
   5. FEN: tolerated house diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2168-3-17**] 05:46 AM
   PICC Line - [**2168-3-18**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill